US04904671
4-(3,5-Dimethyl-1,2,4-triazol-4-yl)butanol
2,5-Dimethyl-1,3,4-oxadiazole (3.8 g), 4-aminobutanol (3.5 g) and N-methylpyrrolidone (10 ml) were heated at 150° for 18 hours. The mixture was evaporated under high vacuum and the residue chromatographed on silica eluting with a mixture of ethyl acetate and methanol. The fractions containing the product were evaporated under vacuum to leave the title compound, (5.1 g), which was used directly.

reactant | 2,5-Dimethyl-1,3,4-oxadiazole | 3.8 g | CC=1OC(=NN1)C | C4H6N2O
reactant | 4-aminobutanol | 3.5 g | NCCCCO | C4H11NO
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(3,5-Dimethyl-1,2,4-triazol-4-yl)butanol | 5.1 g | CC1=NN=C(N1CCCCO)C | C8H15N3O
